US05098462
Following generally the procedure of Example 28, ethyl 3-ethyl-4-isothiazolecarboxylate is reacted with NBS and benzoyl peroxide to give ethyl 3-(1-bromoethyl)-4-isothiazolecarboxylate, which is then reacted with sodium bicarbonate and DMSO and the resulting ethyl 3-acetyl-4-isothiazolecarboxylate is treated with lithium hydroxide monohydrate to yield 3-acetyl-4-isothiazolecarboxylic acid.

reactant | ethyl 3-ethyl-4-isothiazolecarboxylate | C(C)C1=NSC=C1C(=O)OCC | C8H11NO2S
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | ethyl 3-(1-bromoethyl)-4-isothiazolecarboxylate | BrC(C)C1=NSC=C1C(=O)OCC | C8H10BrNO2S
